US06008237
Step B: Preparation of methyl 4-(4-(2-propyl-4-phenoxyphenoxy)butoxy)-3-chlorophenylacetate
A solution of 4-(4-bromobutoxy)-3-propylphenyl phenyl ether (5.7 g, 15.75 mmol), methyl 3-chloro-4-hyrdoxyphenylacetate (3.0 g, 15.00 mmol) and cesium carbonate (5.38 g, 16.50 mmol) in DMF (50 mL) was stirred at 40° C. overnight. The reaction mixturewas partitioned between ethyl acetate and 0.2N HCl. The organic layer was washed twice with water, then dried over sodium sulfate. The organic layer was filtered and evaporated to an oil which was chromatographed over silica gel with 10% of ethyl acetate in hexane to afford the title compound.

reactant | 4-(4-bromobutoxy)-3-propylphenyl phenyl ether | 15.75 mmol, 5.7 g | C1(=CC=CC=C1)OC1=CC(=C(C=C1)OCCCCBr)CCC | C19H23BrO2
reactant | methyl 3-chloro-4-hyrdoxyphenylacetate | 15.00 mmol, 3.0 g | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
reactant | cesium carbonate | 16.50 mmol, 5.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 4-(4-(2-propyl-4-phenoxyphenoxy)butoxy)-3-chlorophenylacetate | C(CC)C1=C(OCCCCOC2=C(C=C(C=C2)CC(=O)OC)Cl)C=CC(=C1)OC1=CC=CC=C1 | C28H31ClO5
